US07179823B1
A mixture of 1-benzyl-4-chloromethyl-5-phenyl-1H-pyrazole (8.31 g), potassium cyanide (2.87 g), and N,N-dimethylformamide (100 ml) was stirred for 15 hours at 90° C., and poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water and then with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The residue was subjected to silica gel column chromatography, and (1-benzyl-5-phenyl-1H-pyrazol-4-yl)acetonitrile (3.50 g, yield: 44%) was obtained as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | 1-benzyl-4-chloromethyl-5-phenyl-1H-pyrazole | 8.31 g | C(C1=CC=CC=C1)N1N=CC(=C1C1=CC=CC=C1)CCl | C17H15ClN2
reactant | potassium cyanide | 2.87 g | [C-]#N.[K+]
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (1-benzyl-5-phenyl-1H-pyrazol-4-yl)acetonitrile | 3.50 g, yield: 44% | C(C1=CC=CC=C1)N1N=CC(=C1C1=CC=CC=C1)CC#N | C18H15N3
